US07247734B2
Acetic anhydride (3 ml, 30 mmol) was added to a suspension of potassium carbonate (4.0 g, 29 mmol) and 1-(2,4-dihydroxy-phenyl)-2-(4-methoxy-phenyl)-ethanone (1.95 g, 7.5 mmol) in DMF (10 ml), and the resulting suspension heated at 115° C. for ˜90 mins. The mixture was allowed to cool and poured into water (200 ml), to give an off-white precipitate. The solids were removed by filtration and washed with water (100 ml) and diethyl ether (2×40 ml), to give 7-hydroxy-3-(4-methoxy-phenyl)-2-methyl-chromen-4-one as an off-white powder, dried in vacuo, (1.65 g)

reactant | Acetic anhydride | 30 mmol, 3 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | potassium carbonate | 29 mmol, 4.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(2,4-dihydroxy-phenyl)-2-(4-methoxy-phenyl)-ethanone | 7.5 mmol, 1.95 g | OC1=C(C=CC(=C1)O)C(CC1=CC=C(C=C1)OC)=O | C15H14O4
reactant | water | 200 ml | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 7-hydroxy-3-(4-methoxy-phenyl)-2-methyl-chromen-4-one | OC1=CC=C2C(C(=C(OC2=C1)C)C1=CC=C(C=C1)OC)=O | C17H14O4
